US08445509B2
Production of benzyl {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-3-fluorophenyl}carbamate
To a solution of benzyl (4-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}-3-fluorophenyl)carbamate (28.0 g, 49.6 mmol) in tetrahydrofuran (280 mL) was added trifluoroacetic acid anhydride (196 mL), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure, ethyl acetate/tetrahydrofuran was added to the residue, and the mixture was washed with saturated aqueous sodium hydrogen carbonate and saturated brine in this order, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, ethanol (140 mL) and 4N aqueous sodium hydroxide solution (40 mL) were added to the residue, and the mixture was stirred at room temperature for 4 hr. The solvent was concentrated under reduced pressure to about 1/3, water was added to the residue, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=10/0→9/1) to give the title compound (10.0 g, 51%).

reactant | benzyl (4-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}-3-fluorophenyl)carbamate | 49.6 mmol, 28.0 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC1=C(C=C(C=C1)NC(OCC1=CC=CC=C1)=O)F)=O | C28H25FN4O6S
reactant | trifluoroacetic acid anhydride | 196 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 280 mL | O1CCCC1 | C4H8O
product | benzyl {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-3-fluorophenyl}carbamate | 10.0 g, 51% | NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(OCC2=CC=CC=C2)=O)F)C1 | C21H17FN4O3
